US06420359B1
a) 5-Bromo-2-chloro-N-(2,6dichloro-4-methyl-3-pyridinyl)-3-pyridinecarboxamide
3-Amino-2,6-dichloro-4-methylpyridine (0.51 g, 2.85 mmol) was dissolved in toluene (35 mL) and pyridine (0.27 mL, 3.28 mmol) was added. 5-Bromo-2-chloro-3-pyridinecarbonyl chloride (0.80 g, 3.14 mmol) was then added dropwise over 30 min. The resulting mixture was stirred at room temperature for 1 h, diluted with water and extracted with toluene (2×). The combined organic extracts were dried (MgSO4), filtered and concentrated under reduced pressure. The resulting thick oil was triturated with CH2Cl2, and the white solid collected via suction filtration to give the title compound (0.41 g, 36% yield).

reactant | 3-Amino-2,6-dichloro-4-methylpyridine | 2.85 mmol, 0.51 g | NC=1C(=NC(=CC1C)Cl)Cl | C6H6Cl2N2
reactant | pyridine | 3.28 mmol, 0.27 mL | N1=CC=CC=C1 | C5H5N
reactant | 5-Bromo-2-chloro-3-pyridinecarbonyl chloride | 3.14 mmol, 0.80 g | BrC=1C=C(C(=NC1)Cl)C(=O)Cl | C6H2BrCl2NO
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-Bromo-2-chloro-N-(2,6dichloro-4-methyl-3-pyridinyl)-3-pyridinecarboxamide | 0.41 g, 36% yield | BrC=1C=C(C(=NC1)Cl)C(=O)NC=1C(=NC(=CC1C)Cl)Cl | C12H7BrCl3N3O
